US07741320B2
Step B: 7-acetamido-4-cyclopropyl-3,4-dihydro-2H-1,2,4-benzothiadiazine 1,1-dioxide
Acetyl chloride (0.5 mL) is added to a solution of 7-amino-4-cyclopropyl-4H-1,2,4-benzothiadiazine 1,1-dioxide (0.5 g), prepared in the Step above, in dioxane (20 mL) and stirring is carried out at ambient temperature for 16 hours. After removing the solvent by distillation under reduced pressure, the residue is taken up in water, and the precipitate, of 7-acetamido-4-cyclopropyl-4H-1,2,4-benzothiadiazine 1,1-dioxide, is collected by filtration, washed with water and dried. It is used directly in a subsequent step, according to the procedure described in Step D of Example 1, in order to obtain the expected product.

reactant | Acetyl chloride | 0.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | 7-amino-4-cyclopropyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | 0.5 g | NC1=CC2=C(N(C=NS2(=O)=O)C2CC2)C=C1 | C10H11N3O2S
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 7-acetamido-4-cyclopropyl-3,4-dihydro-2H-1,2,4-benzothiadiazine 1,1-dioxide | C(C)(=O)NC1=CC2=C(N(CNS2(=O)=O)C2CC2)C=C1 | C12H15N3O3S
